US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-oxocyclohexyl)phenyl)-4-methoxy-1H-pyrrol-2(5H)-one (E17)
The compound was synthesized starting from 1-(1H-benzo[d]imidazol-5-yl)-5-(4-(4-oxocyclohexyl)phenyl)pyrrolidine-2,4-dione (1.5 g, 3.87 mmol) and thionyl chloride (1.1 g, 9.1 mmol) according to method 6 described above. The compound was further treated with TFA (5 ml) at room temperature for 1 h. The volatiles were evaporated and the residue was partitioned between sodium bicarbonate solution and MeOH/CHCl3 (5/95). The organic layer was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography to give the title compound.

reactant | 1-(1H-benzo[d]imidazol-5-yl)-5-(4-(4-oxocyclohexyl)phenyl)pyrrolidine-2,4-dione | 3.87 mmol, 1.5 g | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)C2CCC(CC2)=O)=O)=O | C23H21N3O3
reactant | thionyl chloride | 9.1 mmol, 1.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-oxocyclohexyl)phenyl)-4-methoxy-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=C(C=C2)C2CCC(CC2)=O)OC)=O | C24H23N3O3
